US07199239B2
Intermediate 38: Ethyl [2-methyl-4-({pentyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}sulfonyl)phenoxy]acetate
To a solution of N-pentyl-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine (70.6 mg, 0.23 mmol) in CH2Cl2 (5 mL) under nitrogen at room temperature was added ethyl [4-(chlorosulfonyl)-2-methylphenoxy]acetate (101 mg, 0.35 mmol) and triethylamine (96 μL, 0.69 mmol). The resultant mixture was stirred for 24 h at room temperature. The reaction mixture was extracted with CH2Cl2 (15 mL) and water (10 mL). The organic solution was passed through a hydrophobic frit and the solvent was removed in vacuo. Purification by SPE (5 g Silica cartridge) eluted with 1:49–1:19 EtOAc:cyclohexane afforded the title compound as a white crystalline solid (76 mg).

reactant | N-pentyl-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine | 0.23 mmol, 70.6 mg | C(CCCC)NC=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C18H20F3N
reactant | ethyl [4-(chlorosulfonyl)-2-methylphenoxy]acetate | 0.35 mmol, 101 mg | ClS(=O)(=O)C1=CC(=C(OCC(=O)OCC)C=C1)C | C11H13ClO5S
reactant | triethylamine | 0.69 mmol, 96 μL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | Ethyl [2-methyl-4-({pentyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}sulfonyl)phenoxy]acetate | 76 mg | CC1=C(OCC(=O)OCC)C=CC(=C1)S(=O)(=O)N(C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)CCCCC | C29H32F3NO5S
